US07294629B2
A solution (200 mL) of acetic acid 4-chloro-7-methoxy-6-quinazolinyl ester [described in U.S. Pat. Nos. 5,770,599 and 5,770,603] (3.74 g, 14.8 mmol) and 3-aminoacetophenone (2.0 g, 14.8 mmol) in isopropanol was heated under reflux for 5 hrs. After allowing to stand to cool, the precipitate was collected by filtration to give acetic acid 4-(3-acetylphenylamino)-7-methoxy-6-quinazolinyl ester hydrochloride (4.78 g, yield as monohydrochloride 83%). To a solution (100 mL) of this compound (3.0 g, 7.74 mmol) in methanol was added 28% aqueous ammonia (2 mL), and the mixture was stirred at room temperature for 4 hrs and then refluxed. The produced precipitate was collected by filtration and dried under reduced pressure to give 1-[3-(6-hydroxy-7-methoxy-4-quinazolinylamino)phenyl]ethanone (2.07 g, 87%). 2) A solution (20 mL) of 1-[3-(6-hydroxy-7-methoxy-4-quinazolinylamino)phenyl]ethanone (870 mg, 2.8 mmol) and pyridine (0.34 mL, 4.2 mmol) in acetonitrile was stirred on an ice bath and trifluoromethanesulfonic acid anhydride (0.57 mL, 3.4 mmol) was added dropwise. The reaction solution was gradually warmed up to room temperature and, after stirring at room temperature for 2 hrs, the mixture was concentrated. Aqueous sodium hydrogen carbonate was added to the residue and the mixture was stirred at room temperature for 30 min. The product was filtered and dried under reduced pressure to give the title compound 6a (1.20 g, 98%).

reactant | acetic acid 4-chloro-7-methoxy-6-quinazolinyl ester | 14.8 mmol, 200 mL, 3.74 g | ClC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC | C11H9ClN2O3
reactant | 3-aminoacetophenone | 14.8 mmol, 2.0 g | CC(=O)C1=CC(=CC=C1)N | C8H9NO
solvent | isopropanol | C(C)(C)O | C3H8O
product | acetic acid 4-(3-acetylphenylamino)-7-methoxy-6-quinazolinyl ester hydrochloride | 4.78 g, 83% | Cl.C(C)(=O)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC | InChI=1S/C19H17N3O4.ClH/c1-11(23)13-5-4-6-14(7-13)22-19-15-8-18(26-12(2)24)17(25-3)9-16(15)20-10-21-19;/h4-10H,1-3H3,(H,20,21,22);1H
